US08445501B2
4-[2-Cyclopropylmethoxy-4-(1,1-difluoro-methoxy)-5-fluoro-phenyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (1-acetyl-piperidin-4-yl)-amide
Starting from 4-[2-cyclopropylmethoxy-4-(1,1-difluoro-methoxy)-5-fluoro-phenyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide hydrochloride (example A189) and acetyl chloride the title compound is obtained as colorless solid.

reactant | 4-[2-cyclopropylmethoxy-4-(1,1-difluoro-methoxy)-5-fluoro-phenyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide hydrochloride | Cl.N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C(=C2)F)OC(F)F)OCC2CC2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 4-[2-Cyclopropylmethoxy-4-(1,1-difluoro-methoxy)-5-fluoro-phenyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (1-acetyl-piperidin-4-yl)-amide | C(C)(=O)N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C(=C2)F)OC(F)F)OCC2CC2 | C25H26F3N5O4
